US07452886B2
To a solution of 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-1-oxa-3,8-diaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.63 mmol) in DMF (2 ml) are added ethyl bromide (0.69 mmol), K2CO3 (0.76 mmol), and NaI (0.95 mmol). The mixture is allowed to stir at ambient temperature under nitrogen atmosphere for 18 hours. The reaction mixture is diluted with H2O and extracted with AcOEt. The organic layer is washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue is purified by HPLC(H2O—0.1% TFA/acetonitrile—0.1% TFA). Fractions are collected, basified with 5% aqueous NaHCO3, extracted with AcOEt, washed with brine, dried over Na2SO4 and concentrated under reduced pressure to give 7-(2,2-dimethyl-propyl)-6-(8-ethyl-2,4-dioxo-1-oxa-3,8-diaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile.

reactant | 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-1-oxa-3,8-diaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.63 mmol | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(OC1(C2=O)CCNCC1)=O)(C)C | C20H24N6O3
reactant | ethyl bromide | 0.69 mmol | C(C)Br | C2H5Br
reactant | K2CO3 | 0.76 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.95 mmol | [Na+].[I-]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 7-(2,2-dimethyl-propyl)-6-(8-ethyl-2,4-dioxo-1-oxa-3,8-diaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(OC1(C2=O)CCN(CC1)CC)=O)(C)C | C22H28N6O3
